US05545702
In a 2-l flask equipped with a stirrer, a thermometer and a reflux condenser, 179.0 g (1.2 moles) of 5-cyano-bicyclo[2.2.1]hepta-2-carbaldehyde, 292.6 g (1.3 moles) of N,O-bis(trifluoroacetyl)hydroxylamine, 197.8 g (2.5 moles) of pyridine and 600 ml of benzene were charged. The resulting mixture was gradually heated and refluxed for 3 hours under stirring. Deionized water (500 ml) was thereafter added to the reaction mixture. The water layer so obtained was removed, whereby an oil was obtained. The oil was distilled under reduced pressure, whereby 128.0 g of bicyclo[2.2.1]heptane-2,5-dicarbonitrile were obtained at 131°-136° C./1 mmHg (yield: 73%). The following is the results of an elemental analysis of the target product.

reactant | N,O-bis(trifluoroacetyl)hydroxylamine | 1.3 moles, 292.6 g | FC(C(=O)NOC(C(F)(F)F)=O)(F)F | C4HF6NO3
reactant | pyridine | 2.5 moles, 197.8 g | N1=CC=CC=C1 | C5H5N
reactant | benzene | 600 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | water | 500 ml | O | H2O
product | bicyclo[2.2.1]heptane-2,5-dicarbonitrile | 128.0 g, yield: 73% | C12C(CC(C(C1)C#N)C2)C#N | C9H10N2
